US04659709
To a solution of 2.88 g of 6,7-dichloro-2-hydroxymethyl-2,3-dihydrobenzofuran dissolved in 22 ml of DMF is added 790 mg of sodium hydride (50% suspension) and stirred at room temperature for 30 minutes. After addition of 1.73 g of ethyl bromide, the reaction mixture is stirred at room temperature for 17 hours and extracted with water and ether. The ether layer is washed with water, dried over magensium sulfate, and evaporated under reduced pressure to give a residue, which is chromatographed on silica gel with dichloromethane as an eluent to give 2.0 g of oily 6,7-dichloro-2-ethoxymethyl-2,3-dihydrobenzofuran. To a solution of 2.0 g of the 6,7-dichloro-2-ethoxymethyl-2,3-dihydrobenzofuran dissolved in 5 ml of thionyl chloride is dropwise added 3 g of chlorosulfonic acid under ice-cooling. The reaction mixture is stirred at room temperature for 2 hours, then poured into iced water, and extracted with ethyl acetate. The ethyl acetate layer is washed with water, dried and evaporated under reduced pressure to give an oil, which is then dissolved in 30 ml of dichloromethane. After introduction of 30 ml of ammonia at -30° to -20° C., the mixture is allowed to stand at room temperature for a night and evaporated under reduced pressure to give an oily residue, which is then dissolved in ethyl acetate and washed with water. The ethyl acetate layer is dried and evaporated to dryness to give 2.7 g of an oily product, which is chromatographed on silica gel with dichloromethane (1000 ml) and successively dichloromethane/acetone (20/1) as eluents to give 900 mg of the objective 6,7-dichloro-2-ethoxymethyl-5-sulfamoyl-2,3-dihydrobenzofuran (I j-84) as crystals, yield 24%, m.p. 148°-149° C.

reactant | 6,7-dichloro-2-hydroxymethyl-2,3-dihydrobenzofuran | 2.88 g | ClC1=C(C2=C(CC(O2)CO)C=C1)Cl | C9H8Cl2O2
reactant | sodium hydride | 790 mg | [H-].[Na+]
reactant | ethyl bromide | 1.73 g | C(C)Br | C2H5Br
solvent | DMF | 22 ml | CN(C)C=O | C3H7NO
product | 6,7-dichloro-2-ethoxymethyl-2,3-dihydrobenzofuran | 2.0 g | ClC1=C(C2=C(CC(O2)COCC)C=C1)Cl | C11H12Cl2O2
